US05728835
4-(Trifluoroacetylamino)methyl-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(2-methoxyphenyl)benzamide
Using 4-aminomethyl-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(2-methoxyphenyl)benzamide (60 mg, 0.123 mmol) and trifluoroacetic anhydride (19 μl, 0.135 mmol), the procedure of Inventive Example 94 was repeated to obtain 48 mg (67.0%) of the title compound in a colorless amorphous form.

reactant | 4-aminomethyl-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(2-methoxyphenyl)benzamide | 0.123 mmol, 60 mg | NCC1=CC=C(C(=O)N(C2=C(C=CC=C2)OC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C29H32FN3O3
reactant | trifluoroacetic anhydride | 0.135 mmol, 19 μl | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 4-(Trifluoroacetylamino)methyl-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(2-methoxyphenyl)benzamide | 48 mg, 67.0% | FC(C(=O)NCC1=CC=C(C(=O)N(C2=C(C=CC=C2)OC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1)(F)F | C31H31F4N3O4
